### PR TITLE
[Merged by Bors] - feat: relative upper/lower sets

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
From a comment by @b-mehta [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Finset.20sum.20bounds/near/506567011) in response to me formalising IMO 2015 Q6 (#23038).

### CODE REVIEW

**Review by b-mehta — COMMENTED** [review]
I agree this is a useful definition to have, and this API looks like a good start. @YaelDillies do you have opinions on the name? To me, `Rel` is not a great part to reference here because it can equally well mean relation rather than relative.

File: Mathlib/Order/Defs/Unbundled.lean [hunk 1]
```diff
@@ -272,6 +272,34 @@ structure LowerSet (α : Type*) [LE α] where
...
+any element less than one of its members and greater than `c` is also a member. -/
+def IsRelLowerSet {α : Type*} [LE α] (s : Set α) (c : α) : Prop :=
+  ∀ ⦃a : α⦄, a ∈ s → c ≤ a ∧ ∀ ⦃b : α⦄, b ≤ a → c ≤ b → b ∈ s
+
+@[inherit_doc IsRelUpperSet]
+structure RelUpperSet {α : Type*} [LE α] (c : α) where
+  /-- The carrier of a `RelUpperSet`. -/
+  carrier : Set α
+  /-- The carrier of a `RelUpperSet` is an upper set relative to `c`. -/
+  relUpper : IsRelUpperSet carrier c
```
Comment (YaelDillies) [inline Mathlib/Order/Defs/Unbundled.lean:290]:
```suggestion
  isRelUpperSet' : IsRelUpperSet carrier c
```
and please add `isRelUpperSet` in terms of `SetLike.coe`. Same below

File: Mathlib/Order/Defs/Unbundled.lean [hunk 2]
```diff
@@ -272,6 +272,34 @@ structure LowerSet (α : Type*) [LE α] where
...
+/-- A lower set relative to an element `c` is a set such that all elements are at least `c` and
+any element less than one of its members and greater than `c` is also a member. -/
+def IsRelLowerSet {α : Type*} [LE α] (s : Set α) (c : α) : Prop :=
+  ∀ ⦃a : α⦄, a ∈ s → c ≤ a ∧ ∀ ⦃b : α⦄, b ≤ a → c ≤ b → b ∈ s
+
+@[inherit_doc IsRelUpperSet]
+structure RelUpperSet {α : Type*} [LE α] (c : α) where
+  /-- The carrier of a `RelUpperSet`. -/
+  carrier : Set α
+  /-- The carrier of a `RelUpperSet` is an upper set relative to `c`. -/
```
Comment (YaelDillies) [inline Mathlib/Order/Defs/Unbundled.lean:289]:
```suggestion
  /-- The carrier of a `RelUpperSet` is an upper set relative to `c`.
  
  Do NOT use directly. Please use `RelUpperSet.isRelUpperSet` instead. -/
```

**Review by YaelDillies — COMMENTED** [review]
I have never heard of "relation upper sets" and sounds a bit clunky. In contrast, "relative upper set" sounds just fine. So I think the ambiguity isn't much of a problem (as opposed to eg `relRank`)

**Comment by b-mehta** [comment]
> I have never heard of "relation upper sets" and sounds a bit clunky. In contrast, "relative upper set" sounds just fine. So I think the ambiguity isn't much of a problem (as opposed to eg `relRank`)

That's fair, although "relative upper set" isn't a common name, and I think we can still do better (what's it relative to?). Maybe IsUpperSetUnder or similar. Now that I think about it, maybe it should be upper closed relative to a set/predicate rather than a bound, then this version would be relative to an Iic.

File: Mathlib/Order/Defs/Unbundled.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Defs/Unbundled.lean]: Done.

**Comment by YaelDillies** [comment]
> maybe it should be upper closed relative to a set/predicate rather than a bound, then this version would be relative to an Iic

I agree. I guess I am also missing the exact motivation for this PR? I understand it showed up when formalising some IMO problem, but why should we solve the issue that arose this way rather than another way?

**Comment by b-mehta** [comment]
One motivation for the generalised version I mention is that we can then talk about initial segments of colex restricted to a fixed size (like I wanted to all those years ago...!)

**Comment by YaelDillies** [comment]
Very good point!

**Comment by Parcly-Taxel** [comment]
@YaelDillies done.

File: Mathlib/Order/UpperLower/Relative.lean [hunk 3]
```diff
@@ -0,0 +1,149 @@
...
+    IsRelUpperSet (s ∩ t) P := fun b ⟨bs, bt⟩ ↦ by
+  simp_all only [IsRelUpperSet, true_and]
+  exact fun _ x y ↦ ⟨(hs bs).2 x y, (ht bt).2 x y⟩
+
+lemma IsRelLowerSet.inter (hs : IsRelLowerSet s P) (ht : IsRelLowerSet t P) :
+    IsRelLowerSet (s ∩ t) P := fun b ⟨bs, bt⟩ ↦ by
+  simp_all only [IsRelLowerSet, true_and]
+  exact fun _ x y ↦ ⟨(hs bs).2 x y, (ht bt).2 x y⟩
+
+lemma isRelUpperSet_sUnion {S : Set (Set α)} (hS : ∀ s ∈ S, IsRelUpperSet s P) :
```
Comment (YaelDillies) [inline Mathlib/Order/UpperLower/Relative.lean:56]:
```suggestion
protected lemma IsRelUpperSet.Union {S : Set (Set α)} (hS : ∀ s ∈ S, IsRelUpperSet s P) :
```
for anonymous dot notation. Same below

File: Mathlib/Order/UpperLower/Relative.lean [hunk 4]
```diff
@@ -0,0 +1,149 @@
...
+lemma isRelUpperSet_iff_isUpperSet_subtype {s : Set { x // P x }} :
+    IsRelUpperSet (Subtype.val '' s) P ↔ IsUpperSet s := by
+  refine ⟨fun h a b x y ↦ ?_, fun h a x ↦ ?_⟩
+  · have ma : a.1 ∈ Subtype.val '' s := by simp [a.2, y]
+    simpa only [mem_image, SetCoe.ext_iff, exists_eq_right] using (h ma).2 x b.2
+  · obtain ⟨a, ma, rfl⟩ := x
+    exact ⟨a.2, fun b x y ↦ by simpa [h (show a ≤ ⟨b, y⟩ by exact x) ma]⟩
+
+lemma isRelLowerSet_iff_isLowerSet_subtype {s : Set { x // P x }} :
+    IsRelLowerSet (Subtype.val '' s) P ↔ IsLowerSet s := by
```
Comment (YaelDillies) [inline Mathlib/Order/UpperLower/Relative.lean:117]: I feel like this lemma is the wrong way around since currently you're abbreviating the LHS but not the RHS

File: Mathlib/Order/UpperLower/Relative.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/UpperLower/Relative.lean]: All done.

File: Mathlib/Order/UpperLower/Relative.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+
+variable [LE α]
+
+lemma IsRelUpperSet.prop_of_mem (hs : IsRelUpperSet s P) (h : a ∈ s) : P a := (hs h).1
+lemma IsRelLowerSet.prop_of_mem (hs : IsRelLowerSet s P) (h : a ∈ s) : P a := (hs h).1
+
+@[simp] lemma isRelUpperSet_empty : IsRelUpperSet (∅ : Set α) P := fun _ ↦ False.elim
+@[simp] lemma isRelLowerSet_empty : IsRelLowerSet (∅ : Set α) P := fun _ ↦ False.elim
+
+@[simp] lemma isRelUpperSet_self : IsRelUpperSet s s := fun _ b ↦ ⟨b, fun _ _ ↦ id⟩
```
Comment (YaelDillies) [inline Mathlib/Order/UpperLower/Relative.lean:31]: This is defeq abusing `Set α := α → Prop`
```suggestion
@[simp] lemma isRelUpperSet_self : IsRelUpperSet s (· ∈ s) := fun _ b ↦ ⟨b, fun _ _ ↦ id⟩
```
Same below

File: Mathlib/Order/UpperLower/Relative.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+lemma RelUpperSet.isRelUpperSet (u : RelUpperSet P) : IsRelUpperSet u P := u.isRelUpperSet'
+lemma RelLowerSet.isRelLowerSet (l : RelLowerSet P) : IsRelLowerSet l P := l.isRelLowerSet'
+
+end LE
+
+section Preorder
+
+variable [Preorder α] {c : α}
+
+lemma isRelUpperSet_Icc_Iic : IsRelUpperSet (Icc a c) (Iic c) := fun _ b ↦ by
```
Comment (YaelDillies) [inline Mathlib/Order/UpperLower/Relative.lean:143]: and here too

File: Mathlib/Order/UpperLower/Relative.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/UpperLower/Relative.lean]: OK, done.

**Review by YaelDillies — APPROVED** [review]
Great, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by b-mehta** [comment]
@Parcly-Taxel In the future, please avoid pinging people by username in the PR description itself, since it generates loads of unnecessary notifications and emails for them!
